US08183231B2
{(R)-3-[(S)-2-Amino-3-(1H-imidazol-4-yl)-propionylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid
The title compound was prepared substantially following the procedures as set forth in Step 4, Example 1, Method A, and employing ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride and N-Cbz-L-histidine-OH as the starting materials. Subsequent hydrogenation of the resulting product in accordance with the procedures of Step 5, Example 1, Method B, and RP-HPLC purification yielded the title compound. 1H NMR (CD3OD, 300 MHz): δ 8.16 (s, 1H), 7.19 (s, 1H), 4.15 (t, 1H), 4.12-3.98 (m, 1H), 3.38-3.10 (m, 4H), 1.94 (br.d, 2H), 1.85-1.60 (m, 6H), 1.56 (dd, 2H), 1.40-1.16 (m, 3H), 1.15-0.96 (m, 2H). 31P NMR (CD3OD, 300 MHz): δ 41.59. LCMS m/z: [M+H]+=373.2

reactant | ((R)-3-Amino-2-hydroxy-propyl)-cyclohexylmethyl-phosphinic acid benzyl ester hydrochloride | Cl.C(C1=CC=CC=C1)OP(=O)(CC1CCCCC1)C[C@@H](CN)O
reactant | N-Cbz-L-histidine-OH | C1=CC=C(C=C1)COC(=O)N[C@@H](CC2=CN=CN2)C(=O)O | C14H15N3O4
product | {(R)-3-[(S)-2-Amino-3-(1H-imidazol-4-yl)-propionylamino]-2-hydroxy-propyl}-cyclohexylmethyl-phosphinic acid | N[C@H](C(=O)NC[C@H](CP(O)(=O)CC1CCCCC1)O)CC=1N=CNC1 | C16H29N4O4P
